US05608056
(2R,4R)-1-Allyloxycarbonyl-2-[2-(5-hydroxymethyl-imidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine (1.63 g) was reacted with thioacetic acid (0.65 ml) and potassium t-butoxide (0.978 g) in substantially the same manner as that of Preparation 14-12) to give (2R,4S)-1-allyloxycarbonyl-4-acetylthio-2-[2-(5-hydroxymethyl-imidazol-1-yl)ethyl]pyrrolidine (884 mg) as an orange paste.

reactant | (2R,4R)-1-Allyloxycarbonyl-2-[2-(5-hydroxymethyl-imidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine | 1.63 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC=C1CO | C15H23N3O6S
reactant | thioacetic acid | 0.65 ml | C(C)(=S)O | C2H4OS
reactant | potassium t-butoxide | 0.978 g | CC(C)([O-])C.[K+]
product | (2R,4S)-1-allyloxycarbonyl-4-acetylthio-2-[2-(5-hydroxymethyl-imidazol-1-yl)ethyl]pyrrolidine | 884 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C)=O)CCN1C=NC=C1CO | C16H23N3O4S
